US06972286B2
Step 1 Preparation of methyl 7-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine-3-carboxylate
Methyl chloroformate (120 mL, 1.53 mol) is added dropwise to 2,3,4,5-tetrahydro-1H-3-benzazepine (J. Heterocyclic Chem., 1971, 779-783) in THF (1 L), water (1 L), and sodium bicarbonate (206 g, 2.46 mmol) at 0° C. The mixture is stirred at room temperature for 4 h, extracted with dichloromethane which is washed with 1 N hydrochloric acid, water, 1 N sodium hydroxide, and brine then dried over anhydrous sodium sulfate, filtered, and concentrated to a amber oil which slowly crystallized. The solid is dissolved in concentrated sulfuric acid (500 mL), cooled to −10° C., and treated dropwise with a solution of ammonium nitrate (82 g, 1.03 mol) in concentrated sulfuric acid (500 mL). The temperature is maintained at 0-5° C. for 3 h then poured onto ice and extracted with dichloromethane. The organic layer is washed with water, saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, filtered, concentrated, and chromatographed on a Chiralcel® AD column with 20% isopropanol in heptane to give 161 g (66%) of the title compound.

reactant | Methyl chloroformate | 1.53 mol, 120 mL | ClC(=O)OC | C2H3ClO2
reactant | 2,3,4,5-tetrahydro-1H-3-benzazepine | C1CNCCC2=C1C=CC=C2 | C10H13N
reactant | sodium bicarbonate | 2.46 mmol, 206 g | C([O-])(O)=O.[Na+]
reactant | ammonium nitrate | 1.03 mol, 82 g | [N+](=O)([O-])[O-].[NH4+]
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | water | 1 L | O | H2O
solvent | sulfuric acid | 500 mL | S(O)(O)(=O)=O | H2O4S
product | methyl 7-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine-3-carboxylate | 161 g, 66% | [N+](=O)([O-])C1=CC2=C(CCN(CC2)C(=O)OC)C=C1 | C12H14N2O4
